US05591849
1'-(4-Methoxyphenyl)-4'-methylspiro[tetralin-2,3'-piperazine]
1'-methylspiro[tetralin-2,3'-piperazine] (50 mg, 0.23 mmol) was dissolved in ethyl acetate (4 ml)-saturated aqueous potassium carbonate solution (4 ml). While the solution was vigorously stirred, p-methoxybenzoyl chloride (51 mg, 0.3 mmol) was added. After the organic layer was separated, the solvent was concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography for elution with n-hexane-ethyl acetate (9:1) to yield 60 mg (74%) of the title compound as a crude crystal.

reactant | 1'-methylspiro[tetralin-2,3'-piperazine] | 0.23 mmol, 50 mg | CN1CC2(NCC1)CC1=CC=CC=C1CC2 | C14H20N2
reactant | p-methoxybenzoyl chloride | 0.3 mmol, 51 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | potassium carbonate | 4 ml | C([O-])([O-])=O.[K+].[K+]
product | 1'-(4-Methoxyphenyl)-4'-methylspiro[tetralin-2,3'-piperazine] | 60 mg, 74% | COC1=CC=C(C=C1)N1CC2(N(CC1)C)CC1=CC=CC=C1CC2 | C21H26N2O
